US07947674B2
Step d) Synthesis of 5,15-bis-[3-(3-methylsulphonylpropoxy)phenyl]porphyrin
To a solution of 5,15-bis-[3-(3-hydroxypropoxy)phenyl]porphyrin (30 mg, 0.049 mmol) in anhydrous CH2Cl2, under nitrogen atmosphere, at 0° C., triethylamine (29 mg mg, 0.29 mmol) and methansulphonylchloride (17 mg, 0.15 mmol) were added. The mixture was kept under magnetic stirring at 0° C. for 3 hours, then washed with NaHCO3 saturated solution and with water. The organic phase was dried under Na2SO4 and the solvent removed by evaporation. The crude product was purified by chromatography on silica gel (CHCl3), to obtain 17 mg of the pure title product (yield 45%).

reactant | 5,15-bis-[3-(3-hydroxypropoxy)phenyl]porphyrin | 0.049 mmol, 30 mg | OCCCOC=1C=C(C=CC1)C=1C2=CC=C(N2)C=C2C=CC(C(=C3C=CC(=CC=4C=CC1N4)N3)C3=CC(=CC=C3)OCCCO)=N2 | C38H34N4O4
reactant | triethylamine | 0.29 mmol, 29 mg | C(C)N(CC)CC | C6H15N
reactant | methansulphonylchloride | 0.15 mmol, 17 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5,15-bis-[3-(3-methylsulphonylpropoxy)phenyl]porphyrin | 17 mg, yield 45% | CS(=O)(=O)CCCOC=1C=C(C=CC1)C=1C2=CC=C(N2)C=C2C=CC(C(=C3C=CC(=CC=4C=CC1N4)N3)C3=CC(=CC=C3)OCCCS(=O)(=O)C)=N2 | C40H38N4O6S2
